US05648550
10.12 g of β-apo-4'-carotenal are suspended in 50 ml of n-propanol under argon in a 350 ml sulphonation flask fitted with a stirrer, thermometer, cooler and dosage pump. Then, 9.6 ml of 50% potassium hydroxide solution are added. The red-violet, thin suspension is now heated to 70° C. internal temperature. Then, a solution of 7.72 g of cyclocarbonate in 20 ml of n-propanol is dosed in using the dosage pump within one hour at 70° C. The mixture is stirred at 70° C. for 5 hours under control by thin-layer chromatography and HPLC. Almost all of the β-apo-4'-carotenal has reacted after this time according to HPLC. 70 ml of water are added to the mixture and the red-brown, thin reaction mixture is heated to reflux and stirred at an internal temperature of 89.3° C. Thereafter, the oil bath is removed and the mixture is cooled to 22° C. using a water bath and stirred for 30 minutes. The crystals are subsequently filtered off under suction and washed in succession twice with 50 ml of n-propanol each time and three times with 50 ml of water each time. After filtering off the crystals these are dried for 16 hours at 50° C. under reduced pressure. In this manner there are obtained 11.09 g (97.8% of theory) of 2'-dehydroplectaniaxanthin as brown crystals.

reactant | β-apo-4'-carotenal | 10.12 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/C=C/C=C(\C)/C=O)/C)/C | C35H46O
reactant | potassium hydroxide | 9.6 ml | [OH-].[K+]
reactant | water | 70 ml | O | H2O
solvent | n-propanol | 50 ml | C(CC)O | C3H8O
solvent | n-propanol | 20 ml | C(CC)O | C3H8O
product | 2'-dehydroplectaniaxanthin | 11.09 g, 97.8% | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/C=C/C=C(\C)/C=C/C(=O)C(C)(C)O)/C)/C | C40H54O2
